### PR TITLE
[stdlib] several NoDup lemmas

### PR DESCRIPTION
**Pull request by haansn08**
This PR adds following lemmas about `NoDup`:
```coq
NoDup_app: NoDup l1 -> NoDup l2 -> (forall a, In a l1 -> ~ In a l2) -> NoDup (l1 ++ l2).
InjectiveOn_map_NoDup: InjectiveOn P f -> Forall P l -> NoDup l -> NoDup (map f l).
ForallOrdPairs_NoDup: ForallOrdPairs (fun a b => a <> b) l <-> NoDup l.
NoDup_concat: Forall NoDup A L -> ForallOrdPairs (fun l1 l2 => forall a, In a l1 -> ~ In a l2) L -> NoDup (concat L).
```
The last lemma was useful to me for arguing about `NoDup (flat_map ...)` using `flat_map_concat_map`.

### CODE REVIEW

**Comment by mrhaandi** [comment]
Fyi, there already is a [Injective_map_NoDup](https://coq.inria.fr/doc/V8.18.0/stdlib/Coq.Logic.FinFun.html#Injective_map_NoDup).
Also, while new lemmas on existing definitions are mostly welcome, new definitions, such as `InjectiveOn`, need to be introduced carefully. In particular, one would need to consider properties of this new definition wrt. all existing definitions.

**Comment by haansn08** [comment]
@mrhaandi `Injective_map_NoDup` was not strong enough for my use case. Consider this way to enumerate all permutations of a list.
```coq
Definition insert_at i x l :=
  firstn i l ++ x :: skipn i l.

Definition additions x l :=
  map (fun i => insert_at i x l) (seq 0 (S (length l))).

Definition permutations :=
  fix F l :=
    match l with
    | nil => [ nil ]
    | x::l' => flat_map (additions x) (F l')
    end.
```
The function `fun i => insert_at i x l` ist injective if `x` is not found in `l`, *but only if* i does not exceed the length of the list. Any `i` larger than `length(l)` will result in the list `l++[x]` making `fun i => insert_at i x l` not injective, which means I cannot apply [Injective_map_NoDup](https://coq.inria.fr/doc/V8.18.0/stdlib/Coq.Logic.FinFun.html#Injective_map_NoDup). However `NoDup (additions x l)` still holds since `map` is called only on indices where `insert_at` is injective. My lemma `InjectiveOn_map_NoDup` can help here, where as `Injective_map_NoDup` cannot.

**Comment by mrhaandi** [comment]
For your use-case, what about:
```coq
Lemma ForallPairs_inj_map_NoDup [A B] (f: A->B) (l: list A) :
  ForallPairs (fun x y => f x = f y -> x = y) l -> NoDup l -> NoDup (map f l).
Proof.
  intros Hinj Hl.
  induction Hl as [|x ?? _ IH]; cbn; constructor.
  - intros [y [??]]%in_map_iff.
    destruct (Hinj y x); cbn; auto.
  - apply IH.
    intros x' y' Hx' Hy'.
    now apply Hinj; right.
Qed.
```

**Comment by haansn08** [comment]
@mrhaandi Nice, I like it! Should I replace `InjectiveOn_map_NoDup` with this lemma?

**Comment by mrhaandi** [comment]
> Should I replace `InjectiveOn_map_NoDup` with this lemma?

Yes, that would be my suggestion (and remove `InjectiveOn`).

**Comment by mrhaandi** [comment]
Fyi, here are different proofs of the above statements. Feel free to ignore or copy (this is entirely stylistic choice).
```coq
Lemma NoDup_app (l1 l2 : list A):
  NoDup l1 -> NoDup l2 -> (forall a, In a l1 -> ~ In a l2) ->
  NoDup (l1 ++ l2).
Proof.
  intros H ?. induction H; [easy|].
  cbn. intros H'. constructor; [|now auto].
  intros [?|?%H']%in_app_or; now auto.
Qed.

Lemma NoDup_concat [A] (L: list (list A)):
  Forall (@NoDup A) L ->
  ForallOrdPairs (fun l1 l2 => forall a, In a l1 -> ~ In a l2) L ->
  NoDup (concat L).
Proof.
  intros H' H. revert H'.
  induction H as [|l L HL _ IH]; [constructor|].
  cbn. intros [??%IH]%Forall_cons_iff.
  apply NoDup_app; [easy..|].
  intros ??[?[??]]%in_concat.
  rewrite Forall_forall in HL.
  eapply HL; eassumption.
Qed.
```

File: theories/Lists/List.v [hunk 1]
```diff
@@ -2479,6 +2479,20 @@ Section ReDun.
     + now constructor.
   Qed.
 
+  Lemma NoDup_app (l1 l2 : list A):
+    NoDup l1 -> NoDup l2 -> (forall a, In a l1 -> ~ In a l2) ->
+    NoDup (l1 ++ l2).
```
Comment (andres-erbsen) [inline theories/Lists/List.v:2484]: :+1:

File: theories/Lists/List.v [hunk 2]
```diff
@@ -3310,6 +3323,49 @@ Section ForallPairs.
   Qed.
 End ForallPairs.
 
+Lemma ForallOrdPairs_NoDup [A] (l: list A):
+  ForallOrdPairs (fun a b => a <> b) l <-> NoDup l.
```
Comment (andres-erbsen) [inline theories/Lists/List.v:3327]: The current name suggests that the lemma is about all pairs of a list of unique items, but instead it establishes a relationship between ForallOrdPairs and NoDup. Maybe `NoDup_iff_ForallOrdPairs` with the sides flipped?

File: theories/Lists/List.v [hunk 3]
```diff
@@ -3310,6 +3323,49 @@ Section ForallPairs.
...
+      contradiction (H1 a E). reflexivity.
+    + assumption.
+  - induction H; constructor.
+    + apply Forall_forall.
+      intros y Hy ->. contradiction.
+    + assumption.
+Qed.
+
+Lemma ForallPairs_inj_map_NoDup [A B] (f: A->B) (l: list A) :
+  ForallPairs (fun x y => f x = f y -> x = y) l -> NoDup l -> NoDup (map f l).
```
Comment (andres-erbsen) [inline theories/Lists/List.v:3341]: Again, the convention I'd like is that the name starts with the conclusion of the lemma and then lists inputs and conditions. Maybe `NoDup_map_NoDup_ForallPairs`? I first thought of `NoDup_map_ForallPairs` but that might be read as referring to `ForallPairs (fun x y => f x <> f y) l -> NoDup (map f l)` which is silly but still valid.

**Review by andres-erbsen — APPROVED** [review]
These are welcome additions. It's a pity that this PR has fallen through the cracks.

**Comment by haansn08** [comment]
@andres-erbsen I changed the names accordingly and added a changelog.

**Comment by andres-erbsen** [comment]
@coqbot run full ci

**Comment by andres-erbsen** [comment]
@coqbot merge now

**Comment by andres-erbsen** [comment]
@coqbot merge now
